* 208V to 24V async buck, 500W
* D=115m, t_on=2.31u, Rload=1.15
Vin in 0 208
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 1.15
Vgate gate 0 PULSE(0 12 0 1n 1n 2.31u 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.probe V(*) I(*)
.end
